US07074819B2
Step 4) Synthesis of 4-{3-[4-(3-hydroxypropyl)phenoxy]-1-propyl}-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman
The title compound was prepared from (3RS,4RS)-4-{3-[4-(3-t-butyl-dimethylsilyloxypropyl)phenoxy]-1-propyl}-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman according to the same method for the synthesis of 4-[9-hydroxy-1-nonyl]-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman described in International Patent Appln. No. PCT/KR97/00265.

reactant | (3RS,4RS)-4-{3-[4-(3-t-butyl-dimethylsilyloxypropyl)phenoxy]-1-propyl}-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman | [Si](C)(C)(C(C)(C)C)OCCCC1=CC=C(OCCCC2C(COC3=CC(=CC=C23)OCOC)(C)C2=CC=C(C=C2)OCOC)C=C1 | C38H54O7Si
reactant | 4-[9-hydroxy-1-nonyl]-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman | OCCCCCCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C29H42O6
product | 4-{3-[4-(3-hydroxypropyl)phenoxy]-1-propyl}-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman | OCCCC1=CC=C(OCCCC2C(COC3=CC(=CC=C23)OCOC)(C)C2=CC=C(C=C2)OCOC)C=C1 | C32H40O7
